US08865712B2
e) 5-(5-Bromo-2-chloro-pyridin-3-yl)-5-hydroxymethyl-morpholin-3-one
To a suspension of N-[1-(5-bromo-2-chloro-pyridin-3-yl)-2-hydroxy-1-hydroxymethyl-ethyl]-2-chloro-acetamide (622 mg, 1.74 mmol) in tert.-butanol (10.2 ml) was added at 0° C. potassium tert.-butoxide (292 mg, 2.61 mmol), the reaction mixture was stirred at room temperature for 1 h. Water was added and the tert.-butanol evaporated, the mixture was extracted with EtOAc, the combined organic layers were washed with halfsaturated aq. NaCl, dried with Na2SO4 and evaporated to provide the title compound as beige foam.

reactant | N-[1-(5-bromo-2-chloro-pyridin-3-yl)-2-hydroxy-1-hydroxymethyl-ethyl]-2-chloro-acetamide | 1.74 mmol, 622 mg | BrC=1C=C(C(=NC1)Cl)C(CO)(CO)NC(CCl)=O | C10H11BrCl2N2O3
reactant | potassium tert.-butoxide | 2.61 mmol, 292 mg | CC(C)([O-])C.[K+]
reactant | Water | O | H2O
solvent | tert.-butanol | 10.2 ml | C(C)(C)(C)O | C4H10O
product | 5-(5-Bromo-2-chloro-pyridin-3-yl)-5-hydroxymethyl-morpholin-3-one | BrC=1C=C(C(=NC1)Cl)C1(COCC(N1)=O)CO | C10H10BrClN2O3
